US05801170
(4-Bromo-3-methylbenzoyl)methyl phenyl sulphone
A stirred solution of diisopropylamine (3.6 ml, 0.026 mole) in dry THF (60 ml) at -60° C. under argon was treated with 1.5M methyllithium in ether (15.3 ml, 0.023 mole). After 15 minutes, the solution was treated dropwise over 5 minutes with a solution of methyl phenyl sulphone (2.8 g, 0.020 mole) in dry THF (20 ml). The mixture was kept at -60° C. for a further 10 minutes, then treated with a solution of N-methoxy-N-methyl-4-bromo-3-methylbenzamide (D41, 4.4 g, 0.017 mole) in dry THF (30 ml) and allowed to warm to room temp. over 1.5 h. The reaction mixture was treated with 10% Na2CO3 solution (70 ml), then concentrated in vacuo to approx. 100 ml volume and extracted with ethyl acetate (2×100 ml). The combined extract was dried and concentrated in vacuo to afford the title compound as a pale orange solid (6.0 g, 100%).

reactant | diisopropylamine | 0.026 mole, 3.6 ml | C(C)(C)NC(C)C | C6H15N
reactant | methyllithium | 1.5M | C[Li]
reactant | ether | 0.023 mole, 15.3 ml | CCOCC | C4H10O
reactant | methyl phenyl sulphone | 0.020 mole, 2.8 g | C1(=CC=CC=C1)S(=O)(=O)C | C7H8O2S
reactant | N-methoxy-N-methyl-4-bromo-3-methylbenzamide | 0.017 mole, 4.4 g | CON(C(C1=CC(=C(C=C1)Br)C)=O)C | C10H12BrNO2
reactant | Na2CO3 | 70 ml | C(=O)([O-])[O-].[Na+].[Na+]
solvent | THF | 60 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | (4-Bromo-3-methylbenzoyl)methyl phenyl sulphone | 6.0 g, 100% | C1(=CC=CC=C1)S(=O)(=O)CC(C1=CC(=C(C=C1)Br)C)=O | C15H13BrO3S
